US05883106
I. Methyl 4-[2,5-difluoro-3-[4-(2-methylimidazol-1-yl)benzyloxy]phenyl]-3,4,5,6-tetrahydro-2H-pyran-4-carboxylate (Claimed Compound)
Methyl 4-(2,5-difluoro-3-hydroxyphenyl)-3,4,5,6-tetrahydropyran-4-carboxylate was reacted with 4-(2-methylimidazol-1-yl)benzyl chloride hydrochloride according to the procedure described in Example 2H to give the titled compound in 49% yield as a yellow oil.

reactant | Methyl 4-(2,5-difluoro-3-hydroxyphenyl)-3,4,5,6-tetrahydropyran-4-carboxylate | FC1=C(C=C(C=C1O)F)C1(CCOCC1)C(=O)OC | C13H14F2O4
reactant | 4-(2-methylimidazol-1-yl)benzyl chloride hydrochloride | Cl.CC=1N(C=CN1)C1=CC=C(CCl)C=C1
product | Methyl 4-[2,5-difluoro-3-[4-(2-methylimidazol-1-yl)benzyloxy]phenyl]-3,4,5,6-tetrahydro-2H-pyran-4-carboxylate | 49% yield | FC1=C(C=C(C=C1OCC1=CC=C(C=C1)N1C(=NC=C1)C)F)C1(CCOCC1)C(=O)OC | C24H24F2N2O4
